US07034039B2
Tert-butyl{6-[amino(hydroxyimino)methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl}methylcarbamate (0.25 g, 0.54 mmol) was dissolved in ethyl acetate (10 ml) and N,N′-carbonyldiimidazole (0.26 g, 1.6 mmol) was added. The mixture was refluxed under heating for 3 h. To the reaction mixture were added 0.1 M aqueous citric acid solution (25 ml) and ethyl acetate (50 ml). The organic layer was washed with 0.1 M aqueous citric acid solution (25 ml), and then saturated brine (25 ml), dried over anhydrous magnesium sulfate (12 g) and concentrated under reduced pressure. The residue was recrystallized from diisopropyl ether-ethyl acetate=2:1 (v/v) to give tert-butyl[2-isobutyl-1-oxo-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.24 g, 93%) as a colorless powder.

reactant | Tert-butyl{6-[amino(hydroxyimino)methyl]-2-isobutyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl}methylcarbamate | 0.54 mmol, 0.25 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=NO)N)=O)CC(C)C)=O | C26H32N4O4
reactant | citric acid | 0.1 M, 25 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl[2-isobutyl-1-oxo-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.24 g, 93% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C1=NOC(N1)=O)=O)CC(C)C)=O | C27H30N4O5
